US05852011
4-[N,N-Bis(2-bromoethyl)amino]benzoic acid
Ethyl 4-[N,N-bis(2-bromoethyl)amino]benzoate (1.0 g; 2.6 mmol) was added to 10 ml of a 47% aqueous solution of hydrobromic acid, followed by stirring for 30 minutes under heating and reflux. The solvent was distilled out under reduced pressure, whereby 650 mg of white powder were obtained (yield: 70%).

reactant | Ethyl 4-[N,N-bis(2-bromoethyl)amino]benzoate | 2.6 mmol, 1.0 g | BrCCN(CCBr)C1=CC=C(C(=O)OCC)C=C1 | C13H17Br2NO2
reactant | hydrobromic acid | Br | BrH
product | 4-[N,N-Bis(2-bromoethyl)amino]benzoic acid | 650 mg, yield: 70% | BrCCN(CCBr)C1=CC=C(C(=O)O)C=C1 | C11H13Br2NO2
